** Name: SimpleTwoStageOpAmp_SimpleOpAmp54_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp54_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=6e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos3 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=591e-6
mNormalTransistorNmos6 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=151e-6
mNormalTransistorNmos7 FirstStageYinnerSourceLoad2 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=151e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=9e-6 W=152e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=9e-6 W=152e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=22e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=22e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=54e-6
mNormalTransistorNmos13 SecondStageYinnerStageBias inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=489e-6
mNormalTransistorPmos14 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=132e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=45e-6
mNormalTransistorPmos16 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=436e-6
mNormalTransistorPmos17 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=200e-6
mNormalTransistorPmos18 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=200e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=290e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=290e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp54_8

** Expected Performance Values: 
** Gain: 113 dB
** Power consumption: 14.9991 mW
** Area: 7402 (mu_m)^2
** Transit frequency: 25.9781 MHz
** Transit frequency with error factor: 25.977 MHz
** Slew rate: 87.1722 V/mu_s
** Phase margin: 55.577°
** CMRR: 125 dB
** VoutMax: 4.25 V
** VoutMin: 0.530001 V
** VcmMax: 5.17001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorPmos: -133.684 muA
** NormalTransistorPmos: -44.7239 muA
** NormalTransistorPmos: -171.565 muA
** NormalTransistorPmos: -294.023 muA
** NormalTransistorPmos: -171.565 muA
** NormalTransistorPmos: -294.023 muA
** NormalTransistorNmos: 171.566 muA
** NormalTransistorNmos: 171.565 muA
** NormalTransistorNmos: 171.566 muA
** NormalTransistorNmos: 171.565 muA
** NormalTransistorNmos: 244.914 muA
** NormalTransistorNmos: 122.458 muA
** NormalTransistorNmos: 122.458 muA
** NormalTransistorNmos: 2213.45 muA
** NormalTransistorNmos: 2213.45 muA
** NormalTransistorPmos: -2213.44 muA
** DiodeTransistorNmos: 133.685 muA
** DiodeTransistorNmos: 44.7231 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.41801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.13201  V
** inputVoltageBiasXXnXX2: 0.636001  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.75  V
** innerTransistorStack1Load2: 0.563001  V
** innerTransistorStack2Load2: 0.563001  V
** sourceGCC1: 4.20001  V
** sourceGCC2: 4.20001  V
** sourceTransconductance: 1.46401  V
** innerStageBias: 0.431001  V


.END