** Name: SimpleTwoStageOpAmp_SimpleOpAmp1_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp1_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=3e-6 W=210e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=5e-6
mNormalTransistorNmos3 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=584e-6
mNormalTransistorNmos4 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=3e-6 W=210e-6
mNormalTransistorPmos5 out ibias sourcePmos sourcePmos pmos4 L=4e-6 W=551e-6
mNormalTransistorPmos6 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=183e-6
mNormalTransistorPmos7 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=183e-6
mNormalTransistorPmos8 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=131e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp1_1

** Expected Performance Values: 
** Gain: 93 dB
** Power consumption: 7.00301 mW
** Area: 4958 (mu_m)^2
** Transit frequency: 80.5261 MHz
** Transit frequency with error factor: 80.3398 MHz
** Slew rate: 87.4509 V/mu_s
** Phase margin: 55.577°
** CMRR: 99 dB
** negPSRR: 100 dB
** posPSRR: 225 dB
** VoutMax: 4.33001 V
** VoutMin: 0.150001 V
** VcmMax: 3.56001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** DiodeTransistorNmos: 133.478 muA
** NormalTransistorNmos: 133.478 muA
** NormalTransistorPmos: -266.954 muA
** NormalTransistorPmos: -133.477 muA
** NormalTransistorPmos: -133.477 muA
** NormalTransistorNmos: 1113.59 muA
** NormalTransistorPmos: -1113.58 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.76401  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.555001  V
** sourceTransconductance: 3.26601  V


.END