** Name: SimpleTwoStageOpAmp_SimpleOpAmp11_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp11_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=12e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=14e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=171e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=101e-6
mDiodeTransistorPmos5 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=9e-6 W=71e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=9e-6 W=57e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=10e-6
mNormalTransistorNmos8 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=171e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=26e-6
mNormalTransistorNmos10 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=10e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mNormalTransistorPmos13 outFirstStage FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=9e-6 W=71e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=42e-6
mNormalTransistorPmos15 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=158e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=9e-6 W=57e-6
Capacitor1 outFirstStage out 2.30001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp11_9

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 2.52301 mW
** Area: 4589 (mu_m)^2
** Transit frequency: 3.48801 MHz
** Transit frequency with error factor: 3.48602 MHz
** Slew rate: 5.27432 V/mu_s
** Phase margin: 70.4739°
** CMRR: 103 dB
** negPSRR: 94 dB
** posPSRR: 90 dB
** VoutMax: 4.25 V
** VoutMin: 0.75 V
** VcmMax: 3.84001 V
** VcmMin: 0.820001 V


** Expected Currents: 
** NormalTransistorNmos: 21.6681 muA
** NormalTransistorPmos: -34.3119 muA
** DiodeTransistorPmos: -6.12799 muA
** DiodeTransistorPmos: -6.12899 muA
** NormalTransistorPmos: -6.12799 muA
** NormalTransistorPmos: -6.12899 muA
** NormalTransistorNmos: 12.2541 muA
** NormalTransistorNmos: 6.12701 muA
** NormalTransistorNmos: 6.12701 muA
** NormalTransistorNmos: 426.443 muA
** DiodeTransistorNmos: 426.442 muA
** NormalTransistorPmos: -426.442 muA
** DiodeTransistorNmos: 34.3111 muA
** NormalTransistorNmos: 34.3111 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -21.6689 muA


** Expected Voltages: 
** ibias: 0.576001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.15201  V
** outSourceVoltageBiasXXnXX1: 0.576001  V
** outVoltageBiasXXpXX0: 4.16701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad1: 3.43201  V
** innerSourceLoad1: 4.20401  V
** innerTransistorStack2Load1: 4.20401  V
** sourceTransconductance: 1.85401  V
** inner: 0.576001  V


.END