** Name: SimpleTwoStageOpAmp_SimpleOpAmp13_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp13_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=4e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos4 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=5e-6 W=18e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=2e-6 W=18e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=4e-6
mNormalTransistorNmos7 out inputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=204e-6
mNormalTransistorNmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=29e-6
mNormalTransistorNmos9 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=29e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=5e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=446e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=61e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=217e-6
mNormalTransistorPmos14 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=2e-6 W=18e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=5e-6 W=18e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp13_8

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 6.18001 mW
** Area: 3654 (mu_m)^2
** Transit frequency: 5.33801 MHz
** Transit frequency with error factor: 5.33633 MHz
** Slew rate: 5.29849 V/mu_s
** Phase margin: 77.9223°
** CMRR: 107 dB
** negPSRR: 98 dB
** posPSRR: 94 dB
** VoutMax: 4.25 V
** VoutMin: 0.700001 V
** VcmMax: 3.77001 V
** VcmMin: 0.900001 V


** Expected Currents: 
** NormalTransistorNmos: 10.0011 muA
** NormalTransistorPmos: -102.084 muA
** DiodeTransistorPmos: -6.12799 muA
** NormalTransistorPmos: -6.12899 muA
** NormalTransistorPmos: -6.12799 muA
** DiodeTransistorPmos: -6.12899 muA
** NormalTransistorNmos: 12.2541 muA
** NormalTransistorNmos: 6.12701 muA
** NormalTransistorNmos: 6.12701 muA
** NormalTransistorNmos: 1101.65 muA
** NormalTransistorNmos: 1101.65 muA
** NormalTransistorPmos: -1101.64 muA
** DiodeTransistorNmos: 102.085 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -10.0019 muA


** Expected Voltages: 
** ibias: 0.747001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.10301  V
** inputVoltageBiasXXpXX0: 4.00201  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.12701  V
** innerTransistorStack2Load1: 4.12701  V
** out1: 3.36801  V
** sourceTransconductance: 1.93701  V
** innerStageBias: 0.342001  V


.END