** Name: SimpleTwoStageOpAmp_SimpleOpAmp29_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp29_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=8e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorPmos3 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=8e-6 W=39e-6
mNormalTransistorNmos4 out ibias SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=4e-6 W=151e-6
mNormalTransistorNmos5 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=14e-6
mNormalTransistorNmos6 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=20e-6
mNormalTransistorNmos7 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=14e-6
mNormalTransistorNmos8 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=15e-6
mNormalTransistorNmos9 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=424e-6
mNormalTransistorPmos10 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=190e-6
mNormalTransistorPmos11 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=8e-6 W=39e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp29_8

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 1.11001 mW
** Area: 3594 (mu_m)^2
** Transit frequency: 3.65401 MHz
** Transit frequency with error factor: 3.65071 MHz
** Slew rate: 4.11597 V/mu_s
** Phase margin: 75.6305°
** CMRR: 98 dB
** negPSRR: 125 dB
** posPSRR: 95 dB
** VoutMax: 4.76001 V
** VoutMin: 0.810001 V
** VcmMax: 4.61001 V
** VcmMin: 1.31001 V


** Expected Currents: 
** DiodeTransistorPmos: -4.76199 muA
** NormalTransistorPmos: -4.76199 muA
** NormalTransistorNmos: 9.52301 muA
** NormalTransistorNmos: 9.52401 muA
** NormalTransistorNmos: 4.76101 muA
** NormalTransistorNmos: 4.76101 muA
** NormalTransistorNmos: 202.514 muA
** NormalTransistorNmos: 202.513 muA
** NormalTransistorPmos: -202.513 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA


** Expected Voltages: 
** ibias: 1.20201  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.19301  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.623001  V
** out1: 4.20201  V
** sourceTransconductance: 1.91501  V
** innerStageBias: 0.545001  V


.END