** Name: SimpleTwoStageOpAmp_SimpleOpAmp2_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp2_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=8e-6 W=15e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=8e-6 W=27e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=9e-6 W=195e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=4e-6 W=11e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=569e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=526e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 nmos4 L=8e-6 W=27e-6
mNormalTransistorNmos8 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=8e-6 W=17e-6
mNormalTransistorNmos9 FirstStageYout1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=8e-6 W=27e-6
mNormalTransistorPmos10 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=4e-6 W=569e-6
mNormalTransistorPmos11 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=18e-6
mNormalTransistorPmos12 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=9e-6 W=423e-6
mNormalTransistorPmos13 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=18e-6
mNormalTransistorPmos14 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=9e-6 W=248e-6
mNormalTransistorPmos15 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=11e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp2_5

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 7.01801 mW
** Area: 14988 (mu_m)^2
** Transit frequency: 4.42501 MHz
** Transit frequency with error factor: 4.42458 MHz
** Slew rate: 5.56626 V/mu_s
** Phase margin: 86.5167°
** CMRR: 104 dB
** negPSRR: 100 dB
** posPSRR: 104 dB
** VoutMax: 3 V
** VoutMin: 0.300001 V
** VcmMax: 4.08001 V
** VcmMin: 0.140001 V


** Expected Currents: 
** NormalTransistorNmos: 25.0821 muA
** NormalTransistorPmos: -21.9899 muA
** NormalTransistorNmos: 6.44501 muA
** NormalTransistorNmos: 6.44501 muA
** DiodeTransistorNmos: 6.44501 muA
** NormalTransistorPmos: -12.8919 muA
** NormalTransistorPmos: -6.44599 muA
** NormalTransistorPmos: -6.44599 muA
** NormalTransistorNmos: 1323.71 muA
** NormalTransistorPmos: -1323.7 muA
** DiodeTransistorPmos: -1323.7 muA
** DiodeTransistorNmos: 21.9891 muA
** DiodeTransistorPmos: -25.0829 muA
** NormalTransistorPmos: -25.0839 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.27501  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.705001  V
** outInputVoltageBiasXXpXX1: 2.43601  V
** outSourceVoltageBiasXXpXX1: 3.71801  V
** outVoltageBiasXXnXX0: 0.777001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.555001  V
** out1: 1.11001  V
** sourceTransconductance: 3.26401  V
** inner: 3.71101  V


.END