** Name: SimpleTwoStageOpAmp_SimpleOpAmp33_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp33_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=17e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=167e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=10e-6 W=125e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=104e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=218e-6
mNormalTransistorNmos7 out ibias sourceNmos sourceNmos nmos4 L=4e-6 W=517e-6
mNormalTransistorNmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=10e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=144e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=22e-6
mNormalTransistorNmos11 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=10e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=6e-6 W=14e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=201e-6
mNormalTransistorPmos14 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=10e-6 W=153e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=1e-6 W=511e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp33_7

** Expected Performance Values: 
** Gain: 97 dB
** Power consumption: 4.71201 mW
** Area: 8438 (mu_m)^2
** Transit frequency: 5.73001 MHz
** Transit frequency with error factor: 5.72733 MHz
** Slew rate: 5.40095 V/mu_s
** Phase margin: 72.1927°
** CMRR: 109 dB
** negPSRR: 111 dB
** posPSRR: 102 dB
** VoutMax: 4.71001 V
** VoutMin: 0.170001 V
** VcmMax: 4.52001 V
** VcmMin: 1.38001 V


** Expected Currents: 
** NormalTransistorNmos: 84.3701 muA
** NormalTransistorNmos: 126.917 muA
** NormalTransistorPmos: -409.543 muA
** DiodeTransistorPmos: -6.35199 muA
** NormalTransistorPmos: -6.35199 muA
** NormalTransistorPmos: -6.35199 muA
** NormalTransistorNmos: 12.7021 muA
** NormalTransistorNmos: 12.7031 muA
** NormalTransistorNmos: 6.35101 muA
** NormalTransistorNmos: 6.35101 muA
** NormalTransistorNmos: 298.847 muA
** NormalTransistorPmos: -298.846 muA
** DiodeTransistorNmos: 409.544 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -84.3709 muA
** DiodeTransistorPmos: -126.916 muA


** Expected Voltages: 
** ibias: 0.571001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.14901  V
** outVoltageBiasXXnXX1: 0.824001  V
** outVoltageBiasXXpXX0: 4.22401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.166001  V
** innerTransistorStack2Load1: 4.40201  V
** out1: 4.26401  V
** sourceTransconductance: 1.94501  V


.END